US07378418B2
Preparation of 7,8-Bis(4-chlorophenyl)-2-((6-morpholinopyridin-3-yl)methyl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one
The title compound was prepared using 7,8-bis(4-chlorophenyl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one, (50 mg, 0.14 mmol), prepared as described in Example 1, Ph3P (110 mg, 0.42 mmol) and (6-morpholinopyridin-3-yl)methanol (29 mg, 0.14 mmol) in THF (1.0 mL) and by following the procedure described in Example 2. The title compound, 7,8-bis(4-chlorophenyl)-2-((6-morpholinopyridin-3-yl)methyl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one, (20.5 mg, 11%) was obtained as yellow powder. MS M+H=533; 1H NMR (CDCl3) 8.26 δ (1H, d, J=5.0 Hz), 8.15 (1H, s), 7.65 (1H, d, J=5.0 Hz), 7.25-7.36 (6H, m), 7.09 (2H, d, J=10.0 Hz), 6.60 (1H, d, J=10.0 Hz), 5.10 (2H, s), 3.80 (4H, t, J=5.0 Hz), 3.50 (4H, t, J=5.0 Hz).

reactant | 7,8-bis(4-chlorophenyl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one | 0.14 mmol, 50 mg | ClC1=CC=C(C=C1)C1=C(C=2N(N=C1)C(NN2)=O)C2=CC=C(C=C2)Cl | C17H10Cl2N4O
reactant | Ph3P | 0.42 mmol, 110 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | (6-morpholinopyridin-3-yl)methanol | 0.14 mmol, 29 mg | O1CCN(CC1)C1=CC=C(C=N1)CO | C10H14N2O2
solvent | THF | 1.0 mL | C1CCOC1 | C4H8O
product | 7,8-bis(4-chlorophenyl)-2-((6-morpholinopyridin-3-yl)methyl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one | 20.5 mg, 11% | ClC1=CC=C(C=C1)C1=C(C=2N(N=C1)C(N(N2)CC=2C=NC(=CC2)N2CCOCC2)=O)C2=CC=C(C=C2)Cl | C27H22Cl2N6O2
